US06645711B2
Into 1100 ml of methylene chloride was dissolved 552 g (4.00 mol) of commercially available 1,4-dimethoxybenzene, and then 308 ml (4.63 mol) of chlorosulfonic acid was added dropwise thereto under cooling with ice in such a manner that the internal temperature was not over 5° C. After the addition, the reaction system was put under a condition of room temperature, and the solution was further stirred for 1 hour. Next, 1000 ml of acetonitrile and 600 ml of DMAC (N,N-dimethylacetoamide) were poured into the solution. Next, the reaction system was heated in a warm bath of 35° C. temperature, and thereto was added dropwise 404 ml (4.33 mol) of phosphorous oxychloride at an internal temperature of 30° C. At this time, attention was paid that the internal temperature was not over 40° C. After the addition, the solution was allowed to react at 35° C. for 1 hour. Thereafter, the reaction solution was charged into ice water. The organic phase was extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure, to obtain 2,5-dimethoxybenzenesulfonylchloride.

reactant | methylene chloride | 1100 ml | C(Cl)Cl | CH2Cl2
reactant | 1,4-dimethoxybenzene | COC1=CC=C(C=C1)OC | C8H10O2
reactant | chlorosulfonic acid | 4.63 mol, 308 ml | ClS(=O)(=O)O | ClHO3S
reactant | phosphorous oxychloride | 4.33 mol, 404 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMAC | 600 ml | CN(C(C)=O)C | C4H9NO
solvent | acetonitrile | 1000 ml | C(C)#N | C2H3N
product | 2,5-dimethoxybenzenesulfonylchloride | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
